US07981903B2
A solution of N-ethyl-N-methyl-2-[6-(methyloxy)-7-nitro-3,4-dihydro-1(2 H)-quinolinyl]-2-oxoethanamine (2.02 g, 6.57 mmol) and 10% palladium on carbon (1.05 g) in methanol (55 mL) was maintained under 40 psi of H2 gas in a pressure flask for 24 hours. The solution was purged with nitrogen, filtered through celite, taken to a residue under reduced pressure, and purified by column chromatography to afford 1-{[ethyl(methyl)amino]acetyl}-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinamine (1.16 g, 64% yield) as a dark orange oil. 1H NMR (400 MHz, DMSO-d6) δ ppm 6.82 (s, 1H), 6.56 (s, 1 H), 4.54 (s, 2 H), 3.72 (s, 3 H), 3.61 (t, J=5.82 Hz, 2 H), 3.25 (s, 2 H), 2.57 (t, J=6.22 Hz, 2 H), 2.43 (q, J=7.02 Hz, 2 H), 2.20 (s, 3 H), 1.70-1.89 (m, 2 H), 0.84-1.03 (m, 3 H).

reactant | N-ethyl-N-methyl-2-[6-(methyloxy)-7-nitro-3,4-dihydro-1(2 H)-quinolinyl]-2-oxoethanamine | 6.57 mmol, 2.02 g | C(C)N(CC(=O)N1CCCC2=CC(=C(C=C12)[N+](=O)[O-])OC)C | C15H21N3O4
catalyst | palladium on carbon | 1.05 g | [Pd] | Pd
solvent | methanol | 55 mL | CO | CH4O
product | 1-{[ethyl(methyl)amino]acetyl}-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinamine | 1.16 g, 64% yield | C(C)N(C)CC(=O)N1CCCC2=CC(=C(C=C12)N)OC | C15H23N3O2
